US05208240
Dissolve (+)-4-[[2-(1,1-dimethylethoxy)-2-oxoethyl]oxy]-alpha-methyl-benzenepropanoic acid (90% ee) (6.04 g, 20.5 mmol) in ethyl ether (400 mL) and treat with excess diazomethane. Wash with saturated sodium hydrogen carbonate (2×300 mL) and brine (300 mL). Dry (MgSO4) and evaporate the solvent in vacuo to give (+)-4-[[2-(1,1-dimethylethoxy)-2-oxoethyl]oxy]-alpha-methyl-benzenepropanoic acid, methyl ester (5.85 g).

reactant | (+)-4-[[2-(1,1-dimethylethoxy)-2-oxoethyl]oxy]-alpha-methyl-benzenepropanoic acid | 20.5 mmol, 6.04 g | CC(C)(OC(COC1=CC=C(C=C1)CC(C(=O)O)C)=O)C | C16H22O5
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ethyl ether | 400 mL | C(C)OCC | C4H10O
product | (+)-4-[[2-(1,1-dimethylethoxy)-2-oxoethyl]oxy]-alpha-methyl-benzenepropanoic acid, methyl ester | 5.85 g | CC(C)(OC(COC1=CC=C(C=C1)CC(C(=O)OC)C)=O)C | C17H24O5
